* C:\Users\jjtur\Documents\Basics of ASICS\BWSI-ASICS-24-BoingBoing\diffeqn.asc
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
XU2 N003 0 N004 opamp Aol=100K GBW=10Meg
XU3 N005 0 b opamp Aol=100K GBW=10Meg
XU4 N006 0 a opamp Aol=100K GBW=10Meg
R1 N007 N001 10k
R2 N002 N003 10k
R3 a N003 10k
R4 N008 N003 5k
XU5 N009 0 N008 opamp Aol=100K GBW=10Meg
R5 N001 N002 10k
R6 N003 N004 10k
R7 N008 N009 10
R8 N009 b 10
R9 N004 N005 10k
C1 N005 b 0.1m
R10 b N006 10k
C2 N006 a 0.1m
V1 N007 0 5
XU6 NC_01 NC_02 NC_03 opamp Aol=100K GBW=10Meg
.lib opamp.sub
.tran 20
.ic V(a)=-4 V(b)=-1
.backanno
.end
